US06307058B1
The addition of isopropanol to N-carbamylmaleimide under the conditions of Example C afforded a 95% yield of isopropyl maleurate. M.P.: 113°-14° C.; 1H NMR (CDCl3): δ10.6 (br s, 1H), 8.2 (br s, 1H), 6.3 (AB, 2H), 5.8 (br s, 1H), 5.2 (quintet, 1H), 1.3 (d, 6H); HPLC (20% CH3CN/H2O, C8): Rt=5.6 minutes.

reactant | N-carbamylmaleimide | C(N)(=O)N1C(C=CC1=O)=O | C5H4N2O3
reactant | isopropanol | C(C)(C)O | C3H8O
product | isopropyl maleurate | 95% yield | C(\C=C/C(NC(N)=O)=O)(=O)OC(C)C | C8H12N2O4
